US04032601
Bis(2-chloroethyl) 1-(methylsulfonylamino)butylphosphonate
A mixture of 74.1 g (0.275 mole) of tris(2-chloroethyl phosphite, 19.8 g (0.275 mole) of n-butyraldehyde, and 23.8 g (0.25 mole) of methanesulfonamide in 130 ml of chlorobenzene is stirred and warmed at 90°-110° under nitrogen for 5.5 hrs, and then the solvent and ethylenechlorohydrin by-product are removed at reduced pressure. Ether (100 ml) is added to the residue, resulting in formation of a white solid after several hours. Recrystallization from carbon tetrachloride gives 33.2 g: mp 69°-72°; 31P nmr (CDCl3)- 24.4 ppm.

reactant | 2-chloroethyl phosphite | P(OCCCl)([O-])[O-]
reactant | n-butyraldehyde | 0.275 mole, 19.8 g | C(CCC)=O | C4H8O
reactant | methanesulfonamide | 0.25 mole, 23.8 g | CS(=O)(=O)N | CH5NO2S
reactant | chlorobenzene | 130 ml | ClC1=CC=CC=C1 | C6H5Cl
product | Bis(2-chloroethyl) 1-(methylsulfonylamino)butylphosphonate | CS(=O)(=O)NC(CCC)P(OCCCl)(OCCCl)=O | C9H20Cl2NO5PS
